US05686486
Ethenesulfonic acid (3-(1-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propyl)-phenyl)-amide;
To 14.7 mg of 3-[1-(3-aminophenyl)propyl]4 hydroxy-coumarin is added 1 ml of methylene chloride and 8.1 microliters of pyridine. 5.71 microliters of chloroethylsulfonyl chloride is added at room temperature and protection from moisture. The reaction mixture is allowed to stir at room temperature for 3 hours. 5 ml of methylene chloride is added and the solution is washed twice with 5 ml of water. The organic solution is dried over anhydrous sodium sulfate, filtered and dried to give crude title product. Chromatography over 15 g of silica gel using 5% methanol in chloroform and collecting material with Rf =0.3 gives 6.3 mg of the title product.

reactant | 3-[1-(3-aminophenyl)propyl]4 hydroxy-coumarin | 14.7 mg | NC=1C=C(C=CC1)C(CC)C=1C(OC2=CC=CC=C2C1O)=O | C18H17NO3
reactant | pyridine | 8.1 microliters | N1=CC=CC=C1 | C5H5N
reactant | chloroethylsulfonyl chloride | 5.71 microliters | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | Ethenesulfonic acid (3-(1-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propyl)-phenyl)-amide | 6.3 mg | OC1=C(C(OC2=CC=CC=C12)=O)C(CC)C=1C=C(C=CC1)NS(=O)(=O)C=C | C20H19NO5S
